US08242104B2
A suspension of 8-bromo-2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (1.2 g, 3.09 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (1.8 g, 5.82 mmol), PdCl2dppf.DCM (339 mg, 0.46 mmol) and potassium carbonate (1.9 g, 13.9 mmol) in DMF (10 mL) was degassed and then heated at 90° C. under an atmosphere of nitrogen for 1.5 h. The cooled reaction mixture was diluted with ethyl acetate and water, the aqueous extracted with ethyl acetate and combined organic extracts dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0 to 100% ethyl acetate in cyclohexane, 1% TEA in final eluent) to give 4-[2-(2-Isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a tan foam (1.5 g, 99%). LCMS: RT=3.77 min, [M+H]+=491

reactant | 8-bromo-2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 3.09 mmol, 1.2 g | BrC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)C)C(C)C)C=C1 | C17H18BrN5O
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 5.82 mmol, 1.8 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | DCM | 0.46 mmol, 339 mg | C(Cl)Cl | CH2Cl2
reactant | potassium carbonate | 13.9 mmol, 1.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-[2-(2-Isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 1.5 g, 99% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)C)C(C)C)C=C1 | C27H34N6O3
